US05559106
A. 3-Chloro-6-cyano-2-[2-[(diethoxyphosphoryl)acetyl]hydrazino]quinoxaline
A solution of (diethoxyphosphoryl)acetyl chloride (2.15 g, 10 mmol) in 20 ml of dry tetrahydrofuran was added to a solution of 3-chloro-6-cyano-2-hydrazinoquinoxaline (2.0 g, 9 mmol) and dry triethylamine (1.4 ml, 10 mmol) in 100 ml of dry tetrahydrofuran. The mixture was stirred at room temperature overnight, and filtered. The filtrate was evaporated, and the title compound was isolated as a semisolid residue, which was used in the next step without further purification; 1H-NMR (DMSO-d6): δ 1.26 (t, 6H), 3.09 (d, 2H), 4.10 (quint, 4H), 7.71 (d, 1H), 7.97 (dd, 1H), 8.39 (d, 1H).

reactant | (diethoxyphosphoryl)acetyl chloride | 10 mmol, 2.15 g | C(C)OP(=O)(OCC)CC(=O)Cl | C6H12ClO4P
reactant | 3-chloro-6-cyano-2-hydrazinoquinoxaline | 9 mmol, 2.0 g | ClC=1C(=NC2=CC=C(C=C2N1)C#N)NN | C9H6ClN5
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Chloro-6-cyano-2-[2-[(diethoxyphosphoryl)acetyl]hydrazino]quinoxaline | ClC=1C(=NC2=CC=C(C=C2N1)C#N)NNC(CP(=O)(OCC)OCC)=O | C15H17ClN5O4P
